US05100891
To a stirred solution of 7-chloroacetyl-1,4-dihydro-4-methylcyclopent[b]indol-3(2H)-one (2.0 g) in chloroform (100 ml) was added sodium phosphate (1.02 g) followed by m-chloroperbenzoic acid (2.5 g, 50-60% purity). The mixture was stirred at room temperature under a nitrogen atmosphere for 14 hours. Saturated NaHCO3 aqueous solution (50 ml) was added, the layers separated and the organic layer washed with water (2+50 ml). The solution was dried (Na2SO4), filtered and concentrated to give a yellow oil which crystallized upon standing. Recrystallization from with EtOH provided 7-chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]indol3-(2H)-one (1.1 g).

reactant | 7-chloroacetyl-1,4-dihydro-4-methylcyclopent[b]indol-3(2H)-one | 2.0 g | ClCC(=O)C1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C14H12ClNO2
reactant | sodium phosphate | 1.02 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | m-chloroperbenzoic acid | 2.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]indol3-(2H)-one | 1.1 g | ClCC(=O)OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C14H12ClNO3
